US04489094
4-[[Bis(p-chlorophenyl)methyl]amino]benzoic acid
A mixture of 13 g. of 4-[[bis(p-chlorphenyl)methyl]amino]benzoic acid, ethyl ester, 9 g. of potassium hydroxide, and 150 ml. of 95% ethanol is heated at 70° C. for 4 hours, cooled, diluted with 300 ml. of water, and adjusted to pH 6.5 with 37% hydrochloric acid. The solid is collected, dried, and crystallized from ethanol and then acetic acid, giving 5.52 g. of the desired product as yellow crystals, m.p. 245°-247° C.

reactant | 4-[[bis(p-chlorphenyl)methyl]amino]benzoic acid, ethyl ester | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)NC1=CC=C(C(=O)OCC)C=C1 | C22H19Cl2NO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-[[Bis(p-chlorophenyl)methyl]amino]benzoic acid | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)NC1=CC=C(C(=O)O)C=C1 | C20H15Cl2NO2
